US07132428B2
d) N-[5-(3-Dimethylamino-phenyl)-3-methyl-1H-pyrazol-4-yl]-benzamide (AK1)
The preparation was carried out as in Example 22A, using 460 mg of benzoyl chloride and 700 mg of 4-amino-5-(3-dimethylamino-phenyl)-3-methylpyrazole, except the reaction mixture was stirred for 16 h and the residue was purified by MPLC (ethyl acetate as eluant) to give the title compound as a tan solid.

reactant | benzoyl chloride | 460 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 4-amino-5-(3-dimethylamino-phenyl)-3-methylpyrazole | 700 mg | NC=1C(=NNC1C1=CC(=CC=C1)N(C)C)C | C12H16N4
product | N-[5-(3-Dimethylamino-phenyl)-3-methyl-1H-pyrazol-4-yl]-benzamide | CN(C=1C=C(C=CC1)C1=C(C(=NN1)C)NC(C1=CC=CC=C1)=O)C | C19H20N4O
